US07105507B2
(RS)-α-Methyl-N-[1-(3-Fluorophenyl)-4-oxocyclohexyl]-3,5-bis(trifluoromethyl)benzeneacetamide
Prepared from (RS)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetic acid (Description 4) and 1-(3-fluorophenyl)-4-oxocyclohexylamine hydrochloride (Description 181) according to the method of Example 1. 1H NMR (360 MHz, CDCl3) δ 7.81 (1H, s), 7.73 (2H, s), 7.29–7.24 (1H, m), 7.06–7.03 (1H, m), 6.97–6.94 (2H, m), 5.78 (1H, s), 3.72 (1H, q, J 7.0 Hz), 2.81–2.75 (1H, m), 2.63–2.57 (1×, m), 2.44–2.24 (6H, m), and 1.53 (3H, d, J 7.0 Hz).

reactant | (RS)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetic acid | CC(C(=O)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H8F6O2
reactant | 1-(3-fluorophenyl)-4-oxocyclohexylamine hydrochloride | Cl.FC=1C=C(C=CC1)C1(CCC(CC1)=O)N
product | (RS)-α-Methyl-N-[1-(3-Fluorophenyl)-4-oxocyclohexyl]-3,5-bis(trifluoromethyl)benzeneacetamide | CC(C(=O)NC1(CCC(CC1)=O)C1=CC(=CC=C1)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H20F7NO2
